US09447039B2
Preparation of Intermediate 6-(Benzyloxy)-4-methyl-1H-indole-2-carboxylic acid (I-5a)
Intermediate I-5a was prepared using procedures analogous to those described above for the synthesis of 5H-[1,3]dioxolo[4,5-f]indole-6-carboxylic acid (I-4c) using 4-(benzyloxy)-2-methylbenzaldehyde (I-4c) as the starting material instead of benzo[d][1,3]dioxole-5-carbaldehyde. ESI MS: m/z 282.24 (M+H).

reactant | 5H-[1,3]dioxolo[4,5-f]indole-6-carboxylic acid | O1COC=2C1=CC=1C=C(NC1C2)C(=O)O | C10H7NO4
reactant | 4-(benzyloxy)-2-methylbenzaldehyde | C(C1=CC=CC=C1)OC1=CC(=C(C=O)C=C1)C | C15H14O2
reactant | benzo[d][1,3]dioxole-5-carbaldehyde | O1COC2=C1C=CC(=C2)C=O | C8H6O3
product | 6-(Benzyloxy)-4-methyl-1H-indole-2-carboxylic acid | C(C1=CC=CC=C1)OC1=CC(=C2C=C(NC2=C1)C(=O)O)C | C17H15NO3
